US04888281
To a solution containing 20.3 g (100 mmol) of indole-3-pyruvic acid and 26.5 g (100 mmol) of pyridoxamine-5-phosphate in 1000 ml of distilled water buffered at pH 6.5 with 0.5M phosphate buffer and maintained at 37° C., is added 50 mg of the monoclonal antibodies prepared according to Example 15. The reaction mixture is gently agitated for 2 hours. The monoclonal antibodies are then recovered by ultrafiltration. Dialysis of the reaction mixture followed by lyophilization yields the product L-tryptophan.

reactant | indole-3-pyruvic acid | 100 mmol, 20.3 g | N1C=C(C2=CC=CC=C12)CC(C(=O)O)=O | C11H9NO3
reactant | pyridoxamine-5-phosphate | 100 mmol, 26.5 g | CC1=NC=C(C(=C1O)CN)COP(=O)(O)O | C8H13N2O5P
reactant | phosphate | 0.5M | P(=O)([O-])([O-])[O-]
solvent | water | 1000 ml | O | H2O
product | L-tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
